US04868184
Preparation of 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]-4-[bis(4-fluorophenyl)methyl]piperazine
A mixture containing 12.7 g of 2-[bis(4-fluorophenyl)methoxy]ethyl chloride, 8.6 g of 1-[bis(4-fluorophenyl)methyl]piperazine, 6.2 g of powdered anhydrous potassium carbonate and 0.5 g of potassium iodide in 90ml of methyl isobutyl ketone is refluxed for 20 hours while stirring. Aftercooling down, the mixture is evaporated under reduced pressure and water and ethyl ether are added to the residue. The ethereal phase is washed with water, dried over anhydrous magnesium sulfate and evaporated. The crude product is purified on a Kieselgel column by using a 2:1 mixture of benzene and chloroform as eluant. The appropriate fractions are combined, evaporated and the residue is recrystallized from ethanol to give the aimed compound, m.p.: 87°-88° C.

reactant | 2-[bis(4-fluorophenyl)methoxy]ethyl chloride | 12.7 g | FC1=CC=C(C=C1)C(OCCCl)C1=CC=C(C=C1)F | C15H13ClF2O
reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | 8.6 g | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | methyl isobutyl ketone | 90ml | C(C(C)C)C(=O)C | C6H12O
product | 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]-4-[bis(4-fluorophenyl)methyl]piperazine | FC1=CC=C(C=C1)C(OCCN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C32H30F4N2O
